US09119868B2
To a solution of methyl 2-(4-fluorophenyl)-5-[(1-methylethyl)oxy]-1-benzofuran-3-carboxylate (6.16 g, 18.76 mmol) in chloroform (22 mL) at −15° C. was added dropwise a cold solution of 70% nitric acid (11 mL, 172 mmol) in chloroform (22 mL). After stirring at 0° C. for 1 hour, the reaction mixture was washed with water (50 mL) and the organic phase was separated by hydrophobic filter tube then evaporated under vacuum to afford a brown solid. The solid was triturated in methyl tert-butyl ether (25 mL) and the resulting pale yellow powder was filtered off, washed with heptane and dried under vacuum to give methyl 2-(4-fluorophenyl)-5-[(1-methylethyl)oxy]-6-nitro-1-benzofuran-3-carboxylate. LCMS (m/z, ES+)=764 (2M+NH4).

reactant | methyl 2-(4-fluorophenyl)-5-[(1-methylethyl)oxy]-1-benzofuran-3-carboxylate | 18.76 mmol, 6.16 g | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OC)C=C(C=C2)OC(C)C | C19H17FO4
reactant | nitric acid | 172 mmol, 11 mL | [N+](=O)(O)[O-] | HNO3
solvent | chloroform | 22 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 22 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-(4-fluorophenyl)-5-[(1-methylethyl)oxy]-6-nitro-1-benzofuran-3-carboxylate | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OC)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C19H16FNO6
